US06063782
0.13 g (0.0011 mole) of potassium tert-butoxide was added to a suspension of 0.29 g (0.0011 mole) of 7-benzyloxy-2,3-dimethylpyrrolo[2,3-d]pyridazine and 0.03 g (0.0001 mole) of 18-crown-6 in 8 ml of tetrahydrofuran and the resulting mixture was stirred at room temperature for 40 minutes. 0.22 g (0.0011 mole) of 3,3-dichloro-2-propenyl bromide was then added to the mixture and stirred at room temperature for 5 minutes. The reaction mixture was poured into ice-water and the aqueous mixture was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel using a 20:1 mixture of chloroform and methanol as an eluent to give 0.090 g of 7-benzyloxy-1-(3,3-dichloro-2-propenyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine as a yellow powder.

reactant | potassium tert-butoxide | 0.0011 mole, 0.13 g | CC(C)([O-])C.[K+]
reactant | 7-benzyloxy-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.0011 mole, 0.29 g | C(C1=CC=CC=C1)OC=1N=NC=C2C1NC(=C2C)C | C15H15N3O
reactant | 18-crown-6 | 0.0001 mole, 0.03 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 3,3-dichloro-2-propenyl bromide | 0.0011 mole, 0.22 g | ClC(=CCBr)Cl | C3H3BrCl2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 7-benzyloxy-1-(3,3-dichloro-2-propenyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.090 g | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2C)C)CC=C(Cl)Cl | C18H17Cl2N3O
